US09227978B2
2-(2-(2-(4,5-Dichloro-2-iodophenoxy)pyridin-4-yloxy)ethyl)isoindoline-1,3-dione
A mixture of 2-(2-(4,5-dichloro-2-iodophenoxy)pyridin-4-yloxy)ethanol (130 mg, 0.31 mmol), isoindoline-1,3-dione (54 mg, 0.37 mmol), PPh3 (160 mg, 0.61 mmol) in THF (5 mL) at 0° C., DIAD (123 mg, 0.61 mmol) was added. The resulting mixture was allowed to warm to room temperature and stirred for 15 h. The mixture was concentrated in vacuo and the residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=20:1 to 5:1) to afford the desired product (120 mg, 71% yield). ESI-MS m/z: 555.0[M+H]+.

reactant | 2-(2-(4,5-dichloro-2-iodophenoxy)pyridin-4-yloxy)ethanol | 0.31 mmol, 130 mg | ClC1=CC(=C(OC2=NC=CC(=C2)OCCO)C=C1Cl)I | C13H10Cl2INO3
reactant | isoindoline-1,3-dione | 0.37 mmol, 54 mg | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | PPh3 | 0.61 mmol, 160 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.61 mmol, 123 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(2-(2-(4,5-Dichloro-2-iodophenoxy)pyridin-4-yloxy)ethyl)isoindoline-1,3-dione | 120 mg, 71% yield | ClC1=CC(=C(OC2=NC=CC(=C2)OCCN2C(C3=CC=CC=C3C2=O)=O)C=C1Cl)I | C21H13Cl2IN2O4
